US06770667B1
To a suspension of 3,6-dichloropyridazine (2.98 g), 3-nitrophenylboronic acid (1.67 g) and tetralis(triphenylphosphine)-palladium (578 mg) in 1,2-dimethoxyethane (30 ml) was added an aqueous solution of sodium carbonate (2M, 15 ml), and the mixture was stirred at 80° C. for 3 hours. The mixture was diluted with ethyl acetate, and then washed with water and brine. The organic layer was dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by a silica gel column chromatography eluting with 30% ethyl acetate in n-hexane to give 3-chloro-6-(3-nitro-phenyl)-pyridazine (0.246 g, 10.4%).

reactant | 3,6-dichloropyridazine | 2.98 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | 3-nitrophenylboronic acid | 1.67 g | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | sodium carbonate | 2M, 15 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 30 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-chloro-6-(3-nitro-phenyl)-pyridazine | 0.246 g, 10.4% | ClC=1N=NC(=CC1)C1=CC(=CC=C1)[N+](=O)[O-] | C10H6ClN3O2
